US07632857B2
1-{6-[4-(2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-pyridin-3-yl}-ethanone
Procedure W′: To a stirring solution of 4-(5-acetyl-pyridin-2-yl)-benzoic acid sodium salt (11.0 mmol) and n-methyl morpholine (1.0 mmol) in dichloromethane (0.10M) in a 0° C. ice bath, add 2-chloro-4,6-dimethoxy-1,3,5-triazine (1.0 mmol). Remove the ice bath and stir for 45 minutes. After this time, add (S)-(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (1.0 mmol) and stir at room temperature for three hours. After this time, wash the reaction with saturated aqueous sodium bicarbonate while extracting with 10% isopropanol/dichloromethane (3×). Dry the organic layer with sodium sulfate, filter and concentrate in vacuo. Purify the title compound via chromatography eluting with 2M ammonia in methanol and dichloromethane. MS (m/e): 378.3 (M+1)

reactant | 4-(5-acetyl-pyridin-2-yl)-benzoic acid sodium salt | 11.0 mmol | [Na+].C(C)(=O)C=1C=CC(=NC1)C1=CC=C(C(=O)[O-])C=C1
reactant | n-methyl morpholine | 1.0 mmol | CN1CCOCC1 | C5H11NO
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 1.0 mmol | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | (S)-(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 1.0 mmol | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | dichloromethane | 0.10M | ClCCl | CH2Cl2
product | 1-{6-[4-(2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-pyridin-3-yl}-ethanone | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=N1)C(C)=O | C23H27N3O2
